US05057614
0.17 g of 3-(5-amino-1-methyl-3-indolyl)-4-(1-methyl-3-indolyl)furan-2,5-dione was treated with 4 ml of DMF and 30 ml of 33% aqueous ammonia and the mixture was heated at 140° C. for 4 hours. The cooled solution was filtered and the residue was washed with water to give 0.08 g of 3-(5-amino-1-methyl-3-indolyl)-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione, m.p. 254°-256° C.

reactant | 3-(5-amino-1-methyl-3-indolyl)-4-(1-methyl-3-indolyl)furan-2,5-dione | 0.17 g | NC=1C=C2C(=CN(C2=CC1)C)C=1C(OC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C22H17N3O3
reactant | ammonia | 30 ml | N | H3N
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-(5-amino-1-methyl-3-indolyl)-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 0.08 g | NC=1C=C2C(=CN(C2=CC1)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C22H18N4O2
